### ISSUE TITLE
`simp` not rewriting in binder

### ISSUE THREAD

**Issue by javra** [leanprover/lean4#1926]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

In Lean 3, `simp` works in the following snippet while in Lean 4 it doesn't. This is maybe due to `simp` using `rw` instead of `subst` internally?

```lean
example (q : p → Prop) (h : p = True)
  (h' : ∀(q : True → Prop), (∀ x, q x) ↔ q True.intro) :
    (∀ h', q h') ↔ q (h.symm ▸ trivial) := by
  simp only [h, h'] -- no change in goal in Lean 4
  -- rw [h] -- motive not type correct :-/
  subst h
  simp [h'] -- works fine now

```

**Comment by kbuzzard** [comment]
This example above has been over-minimised: `simp only [h, h']` does not make progress in Lean 3 either, without any imports. There are examples on Zulip which involve mathlib imports; I'll try and make an example which is mathlib-free.

**Comment by kbuzzard** [comment]
OK so what is actually going on in this example is that in Lean 3, the `congr` attribute can apparently change the behaviour of `simp only`, and there are lemmas which are tagged `@[congr]` in Lean 3 which right now can't be tagged `@[congr]` in Lean 4. Here is Lean 3 code and Lean 4 code exhibiting the difference:

```
-- lean 3

@[simp] lemma forall_true_left (p : true → Prop) : (∀ x, p x) ↔ p true.intro :=
sorry

example (p : Prop) (q : p → Prop) (h : p) :
  (∀ (h2 : p), q h2) ↔ q h :=
by simp only [h, forall_true_left] -- fails


@[congr] lemma forall_prop_congr' {p p' : Prop} {q q' : p → Prop}
  (hq : ∀ h, q h ↔ q' h) (hp : p ↔ p') : (∀ h, q h) = ∀ h : p', q' (hp.2 h) :=
sorry

example (p : Prop) (q : p → Prop) (h : p) :
  (∀ (h2 : p), q h2) ↔ q h :=
by simp only [h, forall_true_left] -- works
```

```
-- Lean 4
theorem forall_true_left : ∀ (p : True → Prop), (∀ (x : True), p x) ↔ p True.intro := sorry

theorem forall_prop_congr' {p p' : Prop} {q q' : p → Prop}
  (hq : ∀ h, q h ↔ q' h) (hp : p ↔ p') : (∀ h, q h) = ∀ h : p', q' (hp.2 h) :=
sorry

--attribute [congr] forall_prop_congr'
/-
invalid 'congr' theorem, equality left/right-hand sides must be applications of the same function
  (∀ (h : ?p), ?q h) = ∀ (h : ?p'), ?q' (_ : ?p)
-/

example (p : Prop) (q : p → Prop) (h : p) :
  (∀ (h2 : p), q h2) ↔ q h :=
by simp only [h, forall_true_left] -- fails
```

Stepping back a bit, what is really happening is this. In the mathlib port, sometimes ported `simp` proofs don't work (there are other examples on the Zulip), and what we are trying to understand right now is whether we should just be fixing the up proofs up and pressing on or whether we should be asking questions about the divergence in behaviour and trying to re-align. In short, is Lean 4 `simp` supposed to be at least as good as Lean 3 `simp`, or is it just supposed to be different? Furthermore, is `@[congr]` supposed to be working the way it did in Lean 3?

**Comment by kbuzzard** [comment]
This came up again on the Zulip https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Data.2ERat.2EDefs/near/315861983 .

**Comment by eric-wieser** [comment]
And again on Zulip: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20on.20binders/near/339224450

**Comment by eric-wieser** [comment]
I ran into this again today while trying to remove some duplication in  https://github.com/leanprover-community/mathlib4/pull/7608; it's so annoying to rewrite binders that we end up just proving things from scratch.

**Comment by eric-wieser** [comment]
Here's a workaround that suggests this limitation is easy to fix:
```
-- this is in mathlib, but can't be marked `@[congr]`
theorem forall_prop_congr' {p p' : Prop} {q q' : p → Prop}
  (hq : ∀ h, q h ↔ q' h) (hp : p ↔ p') : (∀ h, q h) = ∀ h : p', q' (hp.2 h) :=
sorry

-- an alias for `∀` to thwart checks that complain that `∀` is not a function
def Forall {α} (β : α → Sort _) := ∀ a, β a

-- now that we use this alias, `congr` is happy
@[congr]
theorem Forall_prop_congr' {p p' : Prop} {q q' : p → Prop}
    (hq : ∀ h, q h ↔ q' h) (hp : p ↔ p') : (Forall fun h => q h) = Forall fun h : p' => q' (hp.2 h) :=
  forall_prop_congr' hq hp

example (A B : Prop) (f : A → Nat) (h : A ↔ B) :
  ∀ h : A, f h = 0 := by
    rw [←Forall]
    simp [h]
    rw [Forall]
    -- goal is changed!
    sorry
```
